US03949076
A suspension of 0.20 g. of platinum oxide in 20 ml. of absolute ethanol is hydrogenated at 50 p.s.i. for one hour. To this is added a mixture of 7.0 g. of 1-(2-oxopropyl)-2-methyl-2-imidazoline, 3.1 g. of methylamine and 30 ml. of ethanol. The mixture is shaken under ca. 50 p.s.i. of hydrogen until one equivalent is absorbed. Filtration of the catalyst and removal of solvent in vacuo gives 1-(2-methylaminopropyl)-2-methyl-2-imidazoline.

reactant | 1-(2-oxopropyl)-2-methyl-2-imidazoline | O=C(CN1C(=NCC1)C)C | C7H12N2O
reactant | methylamine | CN | CH5N
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-methylaminopropyl)-2-methyl-2-imidazoline | CNC(CN1C(=NCC1)C)C | C8H17N3
